US07465815B2
N-(3-(4-Isopropylphenyl)-4,6-dimethyl-7-propionyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide
Using a diastereo mixture of N-(7-(1-hydroxypropyl)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide obtained in the synthesis in Examples 30 and 31, the title compound was synthesized in the same manner as in Example 32. Yield: 18%. Melting point: 163-164° C. (hexane-ethyl acetate).

reactant | N-(7-(1-hydroxypropyl)-3-(4-isopropylphenyl)-4,6-dimethyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | OC(CC)C1=C(C(=C(C=2C(COC21)C2=CC=C(C=C2)C(C)C)C)NC(CC(C)(C)C)=O)C | C28H39NO3
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | N-(3-(4-Isopropylphenyl)-4,6-dimethyl-7-propionyl-2,3-dihydro-1-benzofuran-5-yl)-3,3-dimethylbutanamide | Yield: 18% | C(C)(C)C1=CC=C(C=C1)C1COC2=C1C(=C(C(=C2C(CC)=O)C)NC(CC(C)(C)C)=O)C | C28H37NO3
